US07687503B2
4.2. 2-(methylamino)-2-oxoethyl 4-{5-[4-(trifluoro-methyl)phenyl]-2-pyridyl}-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 1 (step 1.4.). Starting with 2.77 g (6.33 mmol) of 2-(ethyloxy)-2-oxoethyl 4-{5-[4-(trifluoromethyl)phenyl]-2-pyridyl}-1-piperazine-carboxylate, obtained in step 4.1., and 15.80 ml (31.67 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, eluting with a 97/3 mixture of dichloromethane and methanol, followed by recrystallization from ethyl acetate, 1.69 g of product are obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-{5-[4-(trifluoromethyl)phenyl]-2-pyridyl}-1-piperazine-carboxylate | 6.33 mmol, 2.77 g | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
reactant | methylamine | 2M | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(methylamino)-2-oxoethyl 4-{5-[4-(trifluoro-methyl)phenyl]-2-pyridyl}-1-piperazinecarboxylate | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C20H21F3N4O3
